US05223511
2,3-Dihydro-2-oxo-1H-benzimidazole-1-carbonyl chloride
It was prepared by suspending 5 g of 2,3-dihydro-1H-benzimidazole-2-one in 200 ml of distilled tetrahydrofuran and by adding 13.5 ml of trichloromethylchloroformate. The reaction mixture was refluxed for 3 hrs until a clear solution was obtained. After cooling the separated solid was removed by filtration and after concentration to dryness of the mother liquors 6.5 g of the title compound were obtained.

reactant | 2,3-dihydro-1H-benzimidazole-2-one | 5 g | N1C(NC2=C1C=CC=C2)=O | C7H6N2O
reactant | trichloromethylchloroformate | 13.5 ml | ClC(Cl)(Cl)OC(=O)Cl | C2Cl4O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-2-oxo-1H-benzimidazole-1-carbonyl chloride | O=C1NC2=C(N1C(=O)Cl)C=CC=C2 | C8H5ClN2O2
